US08871802B2
Preparation of 2-bromo-naphtho[2,3-b]furan-4,9-dione
To the solution of 0.8 gram (3.0 mmoles) of 2-trimethylsilyl-naphtho[2,3-b]furan-4,9-dione in 20 mL of acetonitrile at room temperature, 0.53 grams (3.3 mmoles) of bromine in 20 mL of acetonitrile was added dropwise over 5 minutes. The mixture was further stirred for 30 minutes at room temperature, and then evaporated to dryness. The residue was crystallized in ethanol/water. Pure crystal product was filtered and dried under vacuum. 0.75 grams of product (yield 90%) was obtained and characterized by 1H NMR and mass spectrum. 1H NMR (in CDCl3) δ 6.96 (s, 1H), 7.76-7.82 (m, 2H), 8.18-8.25 (m, 2H). Mass (M+H) is 277 and 279.

reactant | 2-trimethylsilyl-naphtho[2,3-b]furan-4,9-dione | 3.0 mmoles, 0.8 gram | C[Si](C1=CC2=C(O1)C(C1=CC=CC=C1C2=O)=O)(C)C | C15H14O3Si
reactant | bromine | 3.3 mmoles, 0.53 grams | BrBr | Br2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-bromo-naphtho[2,3-b]furan-4,9-dione | 0.75 grams, yield 90% | BrC1=CC2=C(O1)C(C1=CC=CC=C1C2=O)=O | C12H5BrO3
